US09422262B2
N-(3-nitrophenyl)butyramide
3-Nitroaniline (6.00 g, 43.4 mmol) was sealed in a flask with stir bar under nitrogen and dissolved with dichloromethane (DCM, 145 mL). The solution was cooled on ice before (i-Pr)2NEt (8.35 ml, 47.8 mmol) and butyryl chloride (5.00 ml, 47.8 mmol) were added. The flask was removed from the ice and stirred for 16 h. The reaction was then diluted with DCM and aq. 1 M HCl, the layers were separated, and the combined organics were washed again with 1 M aq. HCl, then twice with half-saturated aq. NaHCO3, then brine. The organic phase was dried over MgSO4, filtered, and concentrated, yielding a yellow oil (9.04 g, 100%). LRMS (ESI−) (M−H): 207.06. The crude oil was used without further purification in the subsequent reaction.

reactant | 3-Nitroaniline | 43.4 mmol, 6.00 g | [N+](=O)([O-])C=1C=C(N)C=CC1 | C6H6N2O2
reactant | (i-Pr)2NEt | 47.8 mmol, 8.35 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | butyryl chloride | 47.8 mmol, 5.00 ml | C(CCC)(=O)Cl | C4H7ClO
solvent | dichloromethane | 145 mL | ClCCl | CH2Cl2
product | N-(3-nitrophenyl)butyramide | 9.04 g, 100% | [N+](=O)([O-])C=1C=C(C=CC1)NC(CCC)=O | C10H12N2O3
